US07919621B2
Step 1: 7-Bromo-1,2,3,9b-tetraaza-cyclopenta[a]naphthalene (9d)
To 6-Bromo-2-chloro-quinoline (223 mg, 1.0 mmol) in DMF (10 mL) was added sodium azide (65 mg, 1.0 mmol). The reaction was heated at 130° C. for 1 hour, then cooled to room temperature and diluted with EtOAc and water. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The crude material was purified by silica gel chromatography (50% EtOAc in hexanes) to give the desired product, 9d.

reactant | 6-Bromo-2-chloro-quinoline | 1.0 mmol, 223 mg | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | sodium azide | 1.0 mmol, 65 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 7-Bromo-1,2,3,9b-tetraaza-cyclopenta[a]naphthalene | BrC=1C=C2C=CC=3N(C2=CC1)N=NN3 | C9H5BrN4
